US05118690
N-[2-(3,4-methylenedioxyphenyl)-ethyl]furan-2-carboxamide was prepared by condensation of 2-furoyl chloride and 3,4-methylenedioxyphenethylamine in dichloromethane with triethylamine as catalyst.

reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[2-(3,4-methylenedioxyphenyl)-ethyl]furan-2-carboxamide | C1OC=2C=C(C=CC2O1)CCNC(=O)C=1OC=CC1 | C14H13NO4
